US04191768
Preparation of 1,5-Bis[p-(trifluoromethoxy)phenyl]-1,4-pentadien-3-one
Acetone (8.7 g; 0.15 mole) is added to a solution of p-trifluoromethoxybenzaldehyde (57.0 g; 0.30 mole) in methanol (200 ml). The solution is cooled to 20° C. and 10% aqueous sodium hydroxide (8 ml) is added dropwise in about 5 minutes. The reaction mixture is then stirred at room temperature for 1.5 to 2 hours. During this period a yellow solid precipitates from the solution. The mixture is chilled overnight, filtered and the isolated yellow solid dried to afford 24.8 g (41%) of title product, m.p. 121°-123° C. NMR (acetone-d6) [δ=7.0-8.0 (M, 12H, aromatics and vinyl)]; IR 1590-1650 cm-1 (several bands).

reactant | Acetone | 0.15 mole, 8.7 g | CC(=O)C | C3H6O
reactant | p-trifluoromethoxybenzaldehyde | 0.30 mole, 57.0 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1,5-Bis[p-(trifluoromethoxy)phenyl]-1,4-pentadien-3-one | 24.8 g, 41% | FC(OC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)OC(F)(F)F)=O)(F)F | C19H12F6O3
